US04298529
2-Methoxyimino-3,3-ethylenedioxybutyric acid (syn isomer, 15.1 g.) and 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (29.1 g.) were treated in a similar manner to that of Example 10-(2) to give 7-(2-methoxyimino-3,3-ethylenedioxy-butyramido)-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 32.5 g.). Mp. 145° to 152° C. (dec.).

reactant | 2-Methoxyimino-3,3-ethylenedioxybutyric acid | 15.1 g | CON=C(C(=O)O)C1(C)OCCO1 | C7H11NO5
reactant | 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 29.1 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
product | 7-(2-methoxyimino-3,3-ethylenedioxy-butyramido)-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 32.5 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C1(C)OCCO1 | C17H19N5O7S3
